* pipeline2.0 netlist
* circuit: b05

Vbattery2_1 0 N002 DC 9
Rbreaker3_1 N003 N004 2k
Ddiode7_1 N001 N005 D_GENERIC
Linductor10_1 N001 0 0.00025
Qnpn_transistor18_1 N007 N006 0 PNP_GENERIC
Qnpn_transistor18_2 N003 N008 0 PNP_GENERIC
Cpolarized_capacitor20_1 N001 0 375p
Cpolarized_capacitor20_2 N005 N006 0.022u
Cpolarized_capacitor20_3 N007 N008 0.022u
Cpolarized_capacitor20_4 N003 N004 0.001u
Rresistor22_1 N006 N004 220k
Rresistor22_2 N007 N004 4.7k
Rresistor22_3 N008 N004 220k
* switch25.1 open in base run; closed by scenario close_switch

.model D_GENERIC D
.model PNP_GENERIC PNP

* scenario close_switch: switch25.1 modeled as RSCENARIO_switch25_1 N002 N004 1m
RSCENARIO_switch25_1 N002 N004 1m
VSCENARIO_SUPPLY_N001_0 N001 0 SIN(0 100m 1000)
.op
.save all
.tran 1us 5ms

.control
set wr_singlescale
set wr_vecnames
run
wrdata 08_tran.csv time v(N001) v(N002) v(N003) v(N004) v(N005) v(N006) v(N007) v(N008)
.endc
.end
